US08207134B2
1) Synthesis of 5-bromo-2-fluoro-4-hydroxymethyl-benzaldehyde
Tetramethylpiperidine (0.68 g, 4.87 mmol) was dissolved in tetrahydrofuran (4.5 mL). To the resultant solution was added n-butyllithium (1.0 M n-hexane solution, 4.88 mL) at 0° C., and the solution was then stirred for 15 minutes. The solution was cooled to −78° C., and a solution of (2-bromo-5-fluorophenyl)-methanol (0.50 g, 2.43 mmol) in tetrahydrofuran (2.5 mL) was added dropwise. The temperature of the solution was raised over 2 hours to −40° C. The solution was again cooled to −78° C., and N,N-dimethylformamide (0.47 mL, 6.07 mmol) was added thereto. The temperature of the solution was raised to room temperature, and the solution was then stirred for 30 minutes. Saturated aqueous ammonium chloride was added, and the resultant mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure, to thereby obtain the titled compound (604.3 mg, quantitative).

reactant | Tetramethylpiperidine | 4.87 mmol, 0.68 g | CC1C(N(CCC1)C)(C)C | C9H19N
reactant | n-butyllithium | 1.0 M, 4.88 mL | C(CCC)[Li]
reactant | (2-bromo-5-fluorophenyl)-methanol | 2.43 mmol, 0.50 g | BrC1=C(C=C(C=C1)F)CO | C7H6BrFO
reactant | N,N-dimethylformamide | 6.07 mmol, 0.47 mL | CN(C=O)C | C3H7NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
product | 5-bromo-2-fluoro-4-hydroxymethyl-benzaldehyde | 604.3 mg | BrC=1C(=CC(=C(C=O)C1)F)CO | C8H6BrFO2
